US04788199
Sodium hydride (6.5 g, 80% strength in oil) is placed with tetrahydrofuran (160 cc) under nitrogen, and a solution of diethyl malonate (34.9 g) in anhydrous tetrahydrofuran (200 cc) is added dropwise. After 1 hour's stirring at room temperature (approximately 20° C.), a solution of 1-bromomethyl-3-phenylisoquinoline (16.2 g) in anhydrous tetrahydrofuran (200 cc) is added. After 20 hours' stirring at 20° C., water (200 cc) is added and the aqueous phase extracted with ethyl acetate. The organic phase is dried and evaporated to dryness under reduced pressure. The residual product is chromatographed on silica gel with a cyclohexane/ethyl acetate (8:2 by volume) mixture as eluant. The product (11.5 g) is recovered, taken up in concentrated hydrochloric acid (115 cc) and brought to boiling for 20 hours. Water (200 cc) is added, and the precipitate is filtered off and washed with water and acetone. 3-Phenyl-1-isoquinolinepropanoic acid (6.7 g) m.p. 160° C., is obtained.

reactant | Sodium hydride | 6.5 g | [H-].[Na+]
reactant | diethyl malonate | 34.9 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-bromomethyl-3-phenylisoquinoline | 16.2 g | BrCC1=NC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C16H12BrN
reactant | water | 200 cc | O | H2O
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 cc | O1CCCC1 | C4H8O
product | 3-Phenyl-1-isoquinolinepropanoic acid | 6.7 g | C1(=CC=CC=C1)C=1N=C(C2=CC=CC=C2C1)CCC(=O)O | C18H15NO2
